US05677303
3-(3,4-Dimethoxyphenyl)acrylic acid ethyl ester
16.5 g (0.55 mol) of sodium hydride (80%) are stirred in 500 ml of tetrahydrofuran and 123.3 g (0.55 mol) of phosphonoacetic acid triethyl ester are added dropwise to give a clear solution. Then over 15 minutes a solution of 83.1 g (0.50 mol) of 3,4-dimethoxybenzaldehyde in 200 ml of tetrahydrofuran are added. The mixture is then stirred under reflux for 30 minutes. After cooling, the clear solution is separated from the insoluble material which is dissolved in 500 ml of water and extracted twice with 250 ml of toluene. The tetrahydrofuran solution is evaporated to dryness and the residue is dissolved in the toluene extract. This solution is washed three times with water, dried and the solvent evaporated.

reactant | sodium hydride | 0.55 mol, 16.5 g | [H-].[Na+]
reactant | phosphonoacetic acid triethyl ester | 0.55 mol, 123.3 g | CCOC(=O)CP(=O)(OCC)OCC | C8H17O5P
reactant | 3,4-dimethoxybenzaldehyde | 0.50 mol, 83.1 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dimethoxyphenyl)acrylic acid ethyl ester | C(C)OC(C=CC1=CC(=C(C=C1)OC)OC)=O | C13H16O4
